US06953862B2
Preparation of Styrene Carbamate Ethyl Oxetane
3-Ethyl-3-hydroxymethyl-oxetane (40.00 g, 0.3442 mole) and m-TMI (69.43 g, 0.3442 mole) were combined in a 250-ml four-neck round bottom flask equipped with a condenser, mechanical mixer, nitrogen purge and oil bath. The reaction was placed under nitrogen with stirring and heated to 65° C. in the oil bath. A single drop of dibutyltin dilaurate was added, thereby causing an exothermic reaction which peaked at 125° C. The oil bath was removed and the reaction temperature dropped to 65° C. within 15 minutes. At this point, the reaction was complete based on the depletion of the FT-IR isocyanate peak at 2254 cm−1. The product was then removed from the flask as a viscous colorless liquid; however, over time it crystallized into a white solid with a m.p. of 52° C.

reactant | 3-Ethyl-3-hydroxymethyl-oxetane | 0.3442 mole, 40.00 g | C(C)C1(COC1)CO | C6H12O2
reactant | m-TMI | 0.3442 mole, 69.43 g | CC(=C)C1=CC(=CC=C1)C(C)(C)N=C=O | C13H15NO
product | Styrene Carbamate Ethyl Oxetane | C(C)C1OCC1.C(N)(O)=O.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C5H10O.CH3NO2/c1-2-8-6-4-3-5-7-8;1-2-5-3-4-6-5;2-1(3)4/h2-7H,1H2;5H,2-4H2,1H3;2H2,(H,3,4)
